US07842821B2
Methylene chloride (130.5 mL), cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran (10.44 g), N-ethyl-2-nitrobenzene-sulfonamide (16.78 g) and triphenyl-phosphine (20.61 g) are mixed under nitrogen atmosphere. The mixture is cooled at 0-5° C. and diisopropyl azadicarboxylate (16.6 mL) is added, maintaining the temperature. The temperature is allowed to rise to 20-25° C. and is maintained until completing the transformation (2 hours). The resulting mixture is treated with 5% NaOH (100 mL). The resulting organic phase is vacuum distilled to dryness and the residue is chromatographed, obtaining 9.8 g of trans-4-[N-ethyl-N-(2-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran.

reactant | cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran | 10.44 g | O[C@@H]1C2=C(S[C@@H](C1)C)SC=C2 | C8H10OS2
reactant | N-ethyl-2-nitrobenzene-sulfonamide | 16.78 g | C(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O4S
reactant | triphenyl-phosphine | 20.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | 100 mL | [OH-].[Na+]
solvent | Methylene chloride | 130.5 mL | C(Cl)Cl | CH2Cl2
product | trans-4-[N-ethyl-N-(2-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran | 9.8 g | C(C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1C2=C(S[C@H](C1)C)SC=C2 | C16H18N2O4S3
